*Simplified Equivalent Amplifier

* /Users/borjarojo/Documents/university_of_rochester/junior/secondsemester/ece222/labs/lab3/lab32.asc

*Components
Vs N002 0 V
Rs N003 N002 10k
Rif N004 0 29.016
Cc1 N004 N003 10µ
Io N001 N006 -3.92*I(Rif)
Rof N001 N006 262.866
C1 N001 N005 10µ
R2 N005 N006 1k
.backanno
.end
