*This is the netlist for Lab 3 Section 3

*Components
Vs N005 0 V
Rs N006 N005 10k
Rb1 N001 N007 100k
Rb2 N007 0 15k
Rc1 N001 N004 10k
Re1 N009 0 870
Rf N010 N007 10k
Rc2 N001 N002 8k
Re2 N008 0 3.4k
Rl N003 0 1k
Cc1 N007 N006 10µ
Ce1 0 N009 10µ
Cc2 N002 N003 10µ
Cf N008 N010 10µ
Q1 N004 N007 N009 0 Q2N3904
Q2 N002 N004 N008 0 Q2N3904
Vp N001 0 12

*Models
.model NPN NPN
.model PNP PNP
.lib /Users/borjarojo/Library/Application Support/LTspice/lib/cmp/standard.bjt
.model	Q2N3904	NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+		Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+		Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)

*Measurements
.OP
.DC Vs 0 12 .5
.backanno
.end